US07282496B2
Methyl (3S)-2,2-dimethyl-3-thiomorpholinecarboxylate
To a solution of 1,2-dibromoethane (6.77 g, 36 mmol) in dimethylformamide (25 ml) was added, over a period of 30 minutes, a solution of D-penicillamine methyl ester hydrochloride (6 g, 30 mmol) and 1,8-diazobicyclo[5.4.0]undeca-7-ene (13.7 g, 90 mmol) in dimethylformamide (50 ml). The resulting mixture was stirred for 18 hours at room temperature. The reaction mixture was poured into a saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and the solvent was removed in vacuo to give 5.5 g (97%) of the product.

reactant | 1,2-dibromoethane | 36 mmol, 6.77 g | BrCCBr | C2H4Br2
reactant | D-penicillamine methyl ester hydrochloride | 30 mmol, 6 g | Cl.COC([C@H](N)C(C)(C)S)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Methyl (3S)-2,2-dimethyl-3-thiomorpholinecarboxylate | 5.5 g, 97% | CC1([C@@H](NCCS1)C(=O)OC)C | C8H15NO2S
